US03975540
0.200 G. of 2-(5-oxo-5 -H-dibenzo[a,d]cyclohepten-2-yl)propanal is dissolved in 10 ml. of methanol and 20 ml. of tetrahydrofuran, and 1 drop of 60% aqueous perchloric acid is added. The mixture is left for 1 hour then 2 drops of pyridine are added and the mixture added to water and ether. The organic layer is washed with water, dried and evaporated and the residue chromatographed on 5 gm. of silica gel, eluting with 50:50:1 hexane:ether:triethylamine to afford 1,1-dimethoxy 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propane.

reactant | 2-(5-oxo-5 -H-dibenzo[a,d]cyclohepten-2-yl)propanal | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C=O)C)C=CC=C2 | C18H14O2
reactant | methanol | CO | CH4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
catalyst | perchloric acid | 1 drop | Cl(=O)(=O)(=O)O | ClHO4
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 1,1-dimethoxy 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propane | COC(C(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1)OC | C20H20O3
